US09260439B2
Step 4: Preparation of 5-{7-(azetidin-3-yl)-2[(3S)-3-methylmorpholin-4-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine dihydrochloride
To a solution of tert-butyl 3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate (760 mg, 1.62 mmol) in methanol (8 mL), was added 4 N HCl in 1,4-dioxane (8 mL, 32 mmol). The reaction was stirred at room temperature for 1 h. The mixture was diluted with toluene and the solvent was removed under reduced pressure to give a foamy residue. The residue was triturated in acetone to get a free flowing tan solid which was collected by filtration to give the title compound in quantitative yield. The material was taken directly in the next step without purification. 1H NMR (400 MHz, CD3OD) δ 8.78 (br s, 2 H), 5.32 (br s, 1 H), 4.62 (br s, 3 H), 4.34 (br s, 2 H), 4.19-3.99 (m, 4 H), 3.85-3.72 (m, 2 H), 3.64-3.46 (m, 2 H), 3.23 (br s, 2 H), 1.41 (d, J=5.5 Hz, 3 H).

reactant | tert-butyl 3-{4-(2-aminopyrimidin-5-yl)-2-[(3S)-3-methylmorpholin-4-yl]-5,6-dihydro-7H-pyrrolo[2,3-d]pyrimidin-7-yl}azetidine-1-carboxylate | 1.62 mmol, 760 mg | NC1=NC=C(C=N1)C=1C2=C(N=C(N1)N1[C@H](COCC1)C)N(CC2)C2CN(C2)C(=O)OC(C)(C)C | C23H32N8O3
reactant | HCl | 4 N | Cl | ClH
reactant | 1,4-dioxane | 32 mmol, 8 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 8 mL | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-{7-(azetidin-3-yl)-2[(3S)-3-methylmorpholin-4-yl]-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl}pyrimidin-2-amine dihydrochloride | quantitative yield | Cl.Cl.N1CC(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2[C@H](COCC2)C | InChI=1S/C18H24N8O.2ClH/c1-11-10-27-5-4-25(11)18-23-15(12-6-21-17(19)22-7-12)14-2-3-26(16(14)24-18)13-8-20-9-13;;/h6-7,11,13,20H,2-5,8-10H2,1H3,(H2,19,21,22);2*1H/t11-;;/m0../s1
